US08957080B2
Synthesis of (R)-2-(2-((4-amino-3-(4-(3-fluorophenoxy)phenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl)methyl)pyrrolidine-1-carbonyl)-3-cyclopropylacrylonitrile
Into a 10-mL round-bottom flask, was placed 3-[(2R)-2-([4-amino-3-[4-(3-fluorophenoxy)phenyl]-1H-pyrazolo[3,4-d]pyrimidin-1-yl]methyl)pyrrolidin-1-yl]-3-oxopropanenitrile (150 mg, 0.32 mmol, 1.00 equiv), piperidine (27 mg, 0.32 mmol, 1.00 equiv), cyclopropanecarbaldehyde (44.5 mg, 0.63 mmol, 2.00 equiv), methanol (5 mL). The resulting solution was stirred for 12 h at 25° C. and then concentrated under vacuum. The residue was loaded on a silica gel column and eluted with dichloromethane/methanol (50/1) to give 48.5 mg (29%) of the title compound as a off-white solid. LC-MS: (ES, m/z): MS (ESI, pos. ion) m/z: 524 (M+1). 1H-NMR: (CDCl3, ppm): 1HNMR (300 MHz, CD3OD, ppm), 8.253 (1H, s), 7.686˜7.749 (2H, t), 7.363˜7.440 (1H, t), 7.185˜7.232 (2H, t), 6.833˜6.941 (3H, m), 6.450˜6.600 (1H, d), 4.301-4.555 (3H, m), 3.604˜3.638 (2H, m), 1.868˜2.005 (5H, m), 1.200˜1.294 (3H, m), 0.798˜0.810 (2H, m).

reactant | 3-[(2R)-2-([4-amino-3-[4-(3-fluorophenoxy)phenyl]-1H-pyrazolo[3,4-d]pyrimidin-1-yl]methyl)pyrrolidin-1-yl]-3-oxopropanenitrile | 0.32 mmol, 150 mg, 1.00 equiv | NC1=C2C(=NC=N1)N(N=C2C2=CC=C(C=C2)OC2=CC(=CC=C2)F)C[C@@H]2N(CCC2)C(CC#N)=O | C25H22FN7O2
reactant | piperidine | 0.32 mmol, 27 mg, 1.00 equiv | N1CCCCC1 | C5H11N
reactant | cyclopropanecarbaldehyde | 0.63 mmol, 44.5 mg, 2.00 equiv | C1(CC1)C=O | C4H6O
solvent | methanol | 5 mL | CO | CH4O
product | (R)-2-(2-((4-amino-3-(4-(3-fluorophenoxy)phenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl)methyl)pyrrolidine-1-carbonyl)-3-cyclopropylacrylonitrile | 48.5 mg, 29% | NC1=C2C(=NC=N1)N(N=C2C2=CC=C(C=C2)OC2=CC(=CC=C2)F)C[C@@H]2N(CCC2)C(=O)C(C#N)=CC2CC2 | C29H26FN7O2
